US08304419B2
To a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile (27.9 mg, 0.081 mmol), 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid (13.0 mg, 0.081 mmol) and HATU (30.8 mg, 0.081 mmol) in DMF (1.5 ml) was added diisopropylethyl amine (0.028 ml, 0.162 mmol) and the mixture was stirred for 1 hour at rt. The mixture was purified via reverse phase HPLC and neutralized to give 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(trifluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-2-methyl-1H-imidazole-5-carboxamide (25 mg, 0.051 mmol, 63% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.05-8.14 (m, 2H), 7.77 (s, 1H), 7.71 (s, 1H), 7.47 (d, 1H), 7.33 (t, 1H), 4.49 (d, 2H), 2.21 (s, 3H). LC-MS (ES+) m/z 486.94, [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile | 0.081 mmol, 27.9 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C(F)(F)F)F | C15H9ClF4N2O
reactant | 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid | 0.081 mmol, 13.0 mg | ClC=1N=C(NC1C(=O)O)C | C5H5ClN2O2
reactant | HATU | 0.081 mmol, 30.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 0.162 mmol, 0.028 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(trifluoromethyl)phenyl]oxy}-2-fluorophenyl)methyl]-2-methyl-1H-imidazole-5-carboxamide | 0.051 mmol, 25 mg, 63% yield | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C(F)(F)F)C#N)F)C | C20H12Cl2F4N4O2
